US05554620
To a solution of 4-picoline-N-oxide (20 g) in CH2Cl2 (360 mL) was added TMSCN (26.5 mL), stirred 5 minutes, added dimethyl carbamyl chloride (16.6 mL) was added slowly dropwise. The mixture was stirred at RT overnight, poured onto 400 mL H2O, and 40 g NaCO3. Separation of layers and evaporation of CH2Cl2 gave 17.25 g of 2-Cyano-4-methylpyridine-N-oxide, recrystallized from hexane, m.p. 95°-98° C.

reactant | 4-picoline-N-oxide | 20 g | [N+]1(=CC=C(C=C1)C)[O-] | C6H7NO
reactant | TMSCN | 26.5 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | dimethyl carbamyl chloride | 16.6 mL | CN(C(=O)Cl)C | C3H6ClNO
reactant | H2O | 400 mL | O | H2O
solvent | CH2Cl2 | 360 mL | C(Cl)Cl | CH2Cl2
product | 2-Cyano-4-methylpyridine-N-oxide | 17.25 g | C(#N)C1=[N+](C=CC(=C1)C)[O-] | C7H6N2O
